US06090812
A stirred mixture of 3-bromo-5-pyridine-carboxylic acid (10.1 g, 50 mmol) and H2SO4 (1.5 ml) in EtOH (150 ml) was refluxed for 6 hrs. After cooling, the solvent was removed by evaporation in vacuo. The residue was diluted with H2O (100 ml), basified with 5% NaHCO3 (aq) solution and extracted with ether (4×100 ml). The combined organic extracts were washed with saturated NaCl and dried over Na2SO4. Filtration and concentration in vacuo of the filtrate yielded 3-bromo-5-pyridine-carboxylic acid ethyl ester as an oil that solidified on standing: (9.8 g, 85%).

reactant | 3-bromo-5-pyridine-carboxylic acid | 50 mmol, 10.1 g | BrC=1C=NC=C(C1)C(=O)O | C6H4BrNO2
reactant | H2SO4 | 1.5 ml | OS(=O)(=O)O | H2O4S
reactant | EtOH | 150 ml | CCO | C2H6O
product | 3-bromo-5-pyridine-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C=NC1)Br | C8H8BrNO2
